US06903129B2
A mixture of 170 mg (0.5 mmol) (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid and 54 mg Amberlite® IR120 in 10 ml butanol were stirred at room temperature for 48 hours. After filtration the solvent was distilled off, the residue was taken up in dichloroethane and extracted with 2% aqueous sodium bicarbonate. The organic extract was dried with sodium sulfate and the solvent was distilled off to yield 70 mg (31%) (R)-1-{6-[(R)-2-butoxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl}-pyrrolidine-2-carboxylic acid butyl ester as alight yellow oil, MS m/e (%): 453 (M+H+, 100).

reactant | (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid | 0.5 mmol, 170 mg | C(=O)(O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)O)=O | C16H24N2O6
solvent | butanol | 10 ml | C(CCC)O | C4H10O
product | (R)-1-{6-[(R)-2-butoxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl}-pyrrolidine-2-carboxylic acid butyl ester | 70 mg, 31% | C(CCC)OC(=O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)OCCCC)=O | C24H40N2O6
